US06046213
A mixture of 2,6-dichlorophenol (10.10 g, 61.96 mmol) and propionic acid (3.34 mL, 62.58 mmol) in trifluoromethanesulfonic acid (50 g) was heated to 80° C. for 24 h. The reaction was cooled to ambient temperature, poured onto ice and extracted with chloroform (3×). The combined organic layer was washed with aqueous bicarbonate and brine, dried, and concentrated to give 8.90 g (66%) of 2,6-dichloro-4-propionylphenol as a tan solid which had: mp 50-52° C.; NMR δ 7.89 (s, 2 H), 6.29 (s, 1 H), 2.91 (q, J=7 Hz, 2 H), 1.20 (t, J=7 Hz, 3 H). This material was used without further purification.

reactant | 2,6-dichlorophenol | 61.96 mmol, 10.10 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | propionic acid | 62.58 mmol, 3.34 mL | C(CC)(=O)O | C3H6O2
solvent | trifluoromethanesulfonic acid | 50 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 2,6-dichloro-4-propionylphenol | 8.90 g, 66% | ClC1=C(C(=CC(=C1)C(CC)=O)Cl)O | C9H8Cl2O2
